US08871361B2
Synthesis of 3-(1-phenyl-1H-imidazol-2-yl)phenol
To a 500 mL round bottom flask was added 2-(3-methoxyphenyl)-1-phenyl-1H-imidazole (6.52 g, 26.0 mmol) and pyridine hydrochloride (24.08 g, 208 mmol). The reaction mixture was heated to 200° C. for 3 h under nitrogen. The reaction mixture was cooled to room temperature and the solid was added to water. The aqueous mixture was adjusted to pH 7 with sodium hydroxide solution. A gray solid was filtered off, washed with water, and dried (5.38 g, 83%).

reactant | 2-(3-methoxyphenyl)-1-phenyl-1H-imidazole | 26.0 mmol, 6.52 g | COC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C16H14N2O
reactant | pyridine hydrochloride | 208 mmol, 24.08 g | Cl.N1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(1-phenyl-1H-imidazol-2-yl)phenol | C1(=CC=CC=C1)N1C(=NC=C1)C=1C=C(C=CC1)O | C15H12N2O
